US04337256
Sodium cyanide (2.9 g) was dissolved in 100 ml of dimethylsulfoxide, and with stirring at room temperature, 15.5 g of 1-(4-nitrobenzoyl)amino-2-(2-chloromethylphenyl)ethane was gradually added. The reaction was performed at room temperature for 10 hours. The reaction mixture was poured into water, extracted with ethyl acetate, washed in water, and dried. The solvent was distilled off, and the residue was recrystallized from ethanol to afford 11.2 g of 1-(4-nitrobenzoyl)amino-2-(2-cyanomethylphenyl)ethane having a melting point of 118.6° to 119.1° C.

reactant | Sodium cyanide | 2.9 g | [C-]#N.[Na+]
reactant | 1-(4-nitrobenzoyl)amino-2-(2-chloromethylphenyl)ethane | 15.5 g | [N+](=O)([O-])C1=CC=C(C(=O)NCCC2=C(C=CC=C2)CCl)C=C1 | C16H15ClN2O3
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-(4-nitrobenzoyl)amino-2-(2-cyanomethylphenyl)ethane | 11.2 g | [N+](=O)([O-])C1=CC=C(C(=O)NCCC2=C(C=CC=C2)CC#N)C=C1 | C17H15N3O3
